US05106851
5-fluoro-2-nitrobenzylamine
85% Hydrazine hydrate (1.67 ml) was added to a suspension of N-(5-fluoro-2-nitrophenyl)methyl-phthalimide (7.1 g) in ethanol (90 ml). The reaction mixture was heated to reflux for 3 hours, then cooled to 40° C. Hydrochloric acid was added and stirring was continued at that temperature for a further hour; then the solvent was removed under vacuum. The residue was taken up in water and the solid which separated was discarded. The mother liquors were treated with 10% sodium hydroxide and extracted with diethyl ether. After evaporation of the solvent 3.5 g of title compound were obtained as a reddish oil.

reactant | Hydrazine hydrate | 1.67 ml | O.NN
reactant | N-(5-fluoro-2-nitrophenyl)methyl-phthalimide | 7.1 g | FC=1C=CC(=C(C1)CN1C(C=2C(C1=O)=CC=CC2)=O)[N+](=O)[O-] | C15H9FN2O4
reactant | Hydrochloric acid | Cl | ClH
solvent | ethanol | 90 ml | C(C)O | C2H6O
product | 5-fluoro-2-nitrobenzylamine | FC=1C=CC(=C(CN)C1)[N+](=O)[O-] | C7H7FN2O2
